US05616599
1(a) Dimethyl 1-[(2'-t-butoxycarbonylbiphenyl-4yl)methyl]-2-butylimidazole-4,5-dicarboxylate
A sodium methoxide solution prepared from 0.69 g of sodium and 40 ml of methanol was added to a solution of 7.2 g of dimethyl 2-butylimidazole-4,5-dicarboxylate (prepared as described in Preparation 4) in 40 ml of methanol, and the resulting mixture was concentrated by evaporation under reduced pressure. The resulting residue was mixed with benzene, and the mixture was concentrated by distillation under reduced pressure. After this operation had been repeated three times, the solid thus obtained was dissolved in 72 ml of N,N-dimethylacetamide. A solution of 10.41 g of t-butyl 4'-bromomethylbiphenyl-2-carboxylate in 100 ml of N,N-dimethylacetamide was then added dropwise to the resulting solution. The reaction mixture was then stirred at room temperature for 1 hour and at 50°-55° C. for 2 hours. At the end of this time, it was mixed with ethyl acetate and water, and the ethyl acetate layer was separated, and dried over anhydrous magnesium sulfate; the solvent was then removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 15.1 g of the title compound as a gum.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.69 g | [Na] | Na
reactant | dimethyl 2-butylimidazole-4,5-dicarboxylate | 7.2 g | C(CCC)C=1NC(=C(N1)C(=O)OC)C(=O)OC | C11H16N2O4
reactant | t-butyl 4'-bromomethylbiphenyl-2-carboxylate | 10.41 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
solvent | methanol | 40 ml | CO | CH4O
solvent | N,N-dimethylacetamide | 72 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
solvent | methanol | 40 ml | CO | CH4O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dimethyl 1-[(2'-t-butoxycarbonylbiphenyl-4yl)methyl]-2-butylimidazole-4,5-dicarboxylate | 15.1 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC)C(=O)OC)CCCC | C29H34N2O6
